US07569337B2
4-[(2-Fluoro-ethyl)-methyl-amino]-2-hydroxy-benzaldehyde
169 mg (1 mmol) 3-[(2-Fluoro-ethyl)-methyl-amino]-phenol are dissolved in 4 mL DMF and cooled below 10° C. 0.101 mL (1.1 eq.) POCl3 are added dropwise over the course of one minute, the reaction mixture is stirred 10 minutes at room temperature, then heated to 90° C. for 30 minutes. The reaction mixture is allowed to cool to 30° C. and cautiously treated with a slow addition of 8 mL saturated aqueous sodium bicarbonate solution. The desired product is extracted with ethyl acetate and saline, the organic phase dried over sodium sulfate and evaporated to yield 130 mg (66%) crude product as a slightly brownish oil. This compound is used without further purification.

reactant | 3-[(2-Fluoro-ethyl)-methyl-amino]-phenol | 1 mmol, 169 mg | FCCN(C=1C=C(C=CC1)O)C | C9H12FNO
reactant | POCl3 | 0.101 mL, 1.1 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | 8 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-[(2-Fluoro-ethyl)-methyl-amino]-2-hydroxy-benzaldehyde | 130 mg, 66% | FCCN(C1=CC(=C(C=O)C=C1)O)C | C10H12FNO2
